US05047489
Bis-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl) trans,trans-Muconate
A solution of 1.70 gram of dimethyl trans-transmuconate, 5.62 grams of 1-cyclohexyloxy-2,2,6,6-tetra-methylpiperidin-4-ol and 0.025 gram of lithium amide in 100 ml of toluene is heated under reflux with a Dean-Stark trap for 8 hours. The reaction mixture is then diluted with ethyl acetate, and then washed with water, brine and dried over anhydrous magnesium sulfate. Concentration under reduced pressure followed by chromatographic separation affords the title compound as a white solid.

reactant | dimethyl trans-transmuconate | 1.70 gram | C(\C=C\C=C\C(=O)OC)(=O)OC | C8H10O4
reactant | 1-cyclohexyloxy-2,2,6,6-tetra-methylpiperidin-4-ol | 5.62 grams | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | lithium amide | 0.025 gram | [NH2-].[Li+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Bis-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl) trans,trans-Muconate | C(\C=C\C=C\C(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C36H60N2O6
